US05068340
2-O-(5-Methyl-3-isoxazolyl)glycerol
A solution of 23.72 g of diethyl 2-(5-methyl-3-isoxazolyloxy)malonate (prepared as described in Preparation 19) in 120 ml of tetrahydrofuran was added dropwise to a suspension of 14.00 g of lithium aluminum hydride in 140 ml of tetrahydrofuran over a period of 30 minutes, whilst ice-cooling. The mixture was stirred at room temperature for 40 hours, after which 56 ml of a 4% w/v aqueous solution of sodium hydroxide was added dropwise to it over a period of 30 minutes, whilst ice-cooling. An insoluble material was filtered off using a Celite (trade mark) filter aid, and the filtrate was concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 300 g of silica gel. 11.26 g of the title compound was isolated as a colorless oil from the fractions eluted with ethyl acetate.

reactant | diethyl 2-(5-methyl-3-isoxazolyloxy)malonate | 23.72 g | CC1=CC(=NO1)OC(C(=O)OCC)C(=O)OCC | C11H15NO6
reactant | lithium aluminum hydride | 14.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 2-O-(5-Methyl-3-isoxazolyl)glycerol | 11.26 g | CC1=CC(=NO1)OC(CO)CO | C7H11NO4
